US07592373B2
4.1.d. 3-(2,4-dichlorophenyl)propynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide
0.37 g (1.58 mmol) of (2,4-dichlorophenyl)propynoic acid chloride is dissolved in 15 mL of absolute toluene and while cooling with ice combined with 0.77 g (3.16 mmol) of [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine, dissolved in 10 mL of absolute toluene, and stirred for 4 hours at ambient temperature. Then the reaction mixture is extracted with ethyl acetate and dilute aqueous ammonia solution. The organic phase is extracted with water and dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (eluant: dichloromethane/methanol (9:1)). The product obtained is recrystallized from petroleum ether and dried in the vacuum drying chamber at 50° C. Yield: 0.21 g (30.2% of theory); melting point: 98° C.-100° C.; C21H21Cl3N2O2 (M=439.77); calc.: molecular ion peak (M+H)+: 439/441/443; found: molecular ion peak (M+H)+: 439/441/443; Rf value: 0.5 (silica gel, dichloromethane/methanol/ammonia (9:1:0.1)).

reactant | (2,4-dichlorophenyl)propynoic acid chloride | 1.58 mmol, 0.37 g | ClC1=C(C=CC(=C1)Cl)C#CC(=O)Cl | C9H3Cl3O
reactant | [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine | 3.16 mmol, 0.77 g | ClC1=C(OCCN(CC)CC)C=CC(=C1)N | C12H19ClN2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2,4-dichlorophenyl)propynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide | ClC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC1=C(C=C(C=C1)Cl)Cl)=O | C21H21Cl3N2O2
